US06265411B1
Potassium bis(trimethylsilyl)amide (48 ml of a 0.5M solution in toluene, 24 mmol) was rapidly added to a solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (3.2 g, 11.9 mmol) and 1-diethoxymethyloxindole (4.0 g, 14.9 mmol), (prepared according to Synthesis 1975, 168), in THF (240 ml) at ambient temperature. After 2 hours, the precipitate was filtered off and washed with ether. The filtrate was evaporated. The residue was mixed with the precipitate and partitioned between methylene chloride and water and the organic phase washed with saturated aqueous sodium chloride solution. The organic layer was driied (MgSO4) and the solvent removed by evaporation. The residue was purified by column flash chromatography using methylene chloride/methanol (95/5) as eluent. The purified product was triturated with a mixture of ether and petroleum ether to give 4-(1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline (4.03 g, 74%) as a red orange solid.

reactant | Potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 11.9 mmol, 3.2 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | 1-diethoxymethyloxindole | 14.9 mmol, 4.0 g | C(C)OC(N1C(CC2=CC=CC=C12)=O)OCC | C13H17NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 240 ml | C1CCOC1 | C4H8O
product | 4-(1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline | 4.03 g, 74% | C(C)OC(N1C(C(C2=CC=CC=C12)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC)=O)OCC | C25H29N3O6
